* claw-spice generic op-amp macromodels
* Repo-owned educational models for topology and workflow validation.
* These are not vendor-accurate replacements for real LM741/TL072/LM358 models.

.subckt CLAW_IDEAL_OPAMP INP INN VCC VEE OUT params: Aol=100k Rout=10 Cload=1p
BGAIN NDRV 0 V=limit({Aol}*(V(INP)-V(INN)), V(VEE)+0.2, V(VCC)-0.2)
ROUT NDRV OUT {Rout}
COUT OUT 0 {Cload}
.ends CLAW_IDEAL_OPAMP
