* claw-spice LM741 "Level 1" ideal macromodel
* Repo-owned (MIT). Equivalent in spirit to Micro-Cap's opamp LEVEL=1
* ("ideal model") parameterized with LM741 datasheet DC values:
*   Aol = 200k (datasheet Avol typ 200 V/mV), Rin = 2Meg, Rout = 75
* No poles, no slew limiting: level 1 = ideal linear gain block with
* output clipped near the supply rails (headroom ~1 V, datasheet output
* swing +-14 V at +-15 V supplies).
* Port order matches CLAW_IDEAL_OPAMP: INP INN VCC VEE OUT

.subckt LM741_LEVEL1 INP INN VCC VEE OUT params: Aol=200k Rin=2Meg Rout=75 Vhr=1
RIN INP INN {Rin}
BGAIN NDRV 0 V=limit({Aol}*(V(INP)-V(INN)), V(VEE)+{Vhr}, V(VCC)-{Vhr})
ROUT NDRV OUT {Rout}
COUT OUT 0 1p
.ends LM741_LEVEL1
